US05521173
2-(Tributylstannyl)thiophene
A solution of 8.4 g of thiophene in 200 ml of ether is stirred, cooled to 0° C. under nitrogen while 48.0 g of butyl lithium is added dropwise via syringe. After stirring for 1 hour, the reaction mixture is cooled to -78° C. and 35.0 ml of tributyl tin chloride is added dropwise via syringe. Following stirring at room temperature for 30 minutes, the reaction mixture is quenched with 60 ml of water, poured over crushed ice and extracted with ether (3×200 ml). The organic layer is dried and evaporated in vacuo to give 46.2 g of the desired product as a residue.

reactant | thiophene | 8.4 g | S1C=CC=C1 | C4H4S
reactant | butyl lithium | 48.0 g | C(CCC)[Li]
reactant | tributyl tin chloride | 35.0 ml | C(CCC)[Sn](CCCC)(CCCC)Cl
solvent | ether | 200 ml | CCOCC | C4H10O
product | 2-(Tributylstannyl)thiophene | 46.2 g | C(CCC)[Sn](C=1SC=CC1)(CCCC)CCCC | InChI=1S/C4H3S.3C4H9.Sn/c1-2-4-5-3-1;3*1-3-4-2;/h1-3H;3*1,3-4H2,2H3;
